US09255110B2
A mixture of pyrazolo[1,5-a]pyrimidine-3-carboxylic acid {5-chloro-2-[3-(2,2,2-trifluoro-acetylamino)-pyrrolidin-1-yl]-phenyl}-amide (50 mg), methanol (2 mL) and an aqueous solution of sodium hydroxide (4 M, 1 mL) was heated at 60° C. for 1 hour. The resulting mixture was cooled, diluted with ethyl acetate, washed with water and brine, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure to afford 30 mg of pyrazolo[1,5-a]pyrimidine-3-carboxylic acid [2-(3-amino-pyrrolidin-1-yl)-5-chloro-phenyl]-amide (light yellow foam) without further purifications. MS=356 [M]+.

reactant | pyrazolo[1,5-a]pyrimidine-3-carboxylic acid {5-chloro-2-[3-(2,2,2-trifluoro-acetylamino)-pyrrolidin-1-yl]-phenyl}-amide | 50 mg | ClC=1C=CC(=C(C1)NC(=O)C=1C=NN2C1N=CC=C2)N2CC(CC2)NC(C(F)(F)F)=O | C19H16ClF3N6O2
reactant | methanol | 2 mL | CO | CH4O
reactant | sodium hydroxide | 4 M, 1 mL | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | pyrazolo[1,5-a]pyrimidine-3-carboxylic acid [2-(3-amino-pyrrolidin-1-yl)-5-chloro-phenyl]-amide | 30 mg | NC1CN(CC1)C1=C(C=C(C=C1)Cl)NC(=O)C=1C=NN2C1N=CC=C2 | C17H17ClN6O
